US03987051
b. 5-benzoyl-4-sec.butylamino-1H-pyrazolo[3,4-b]pyridine
3.7 g. of 5-benzoyl-4-sec.butylamino-1-(2-furanyl)-methyl-1H-pyrazolo[3,4-b]pyridine are stirred in 20 ml. of conc. sulfuric acid for 3 hours at 50°. The mixture is decomposed with 30 ml. of water and filtered. The filtrate is made alkaline with 30% aqueous ammonia and the white precipitate of 5-benzoyl-4-sec.butylamino-1H-pyrazolo[3,4-b]-pyridine is filtered off, yield 1.7 g. (58%), m.p. 186°-187°.

reactant | 5-benzoyl-4-sec.butylamino-1-(2-furanyl)-methyl-1H-pyrazolo[3,4-b]pyridine | C(C1=CC=CC=C1)(=O)C=1C(=C2C(=NC1)N(N=C2C)C=2OC=CC2)NC(C)CC | C22H22N4O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 5-benzoyl-4-sec.butylamino-1H-pyrazolo[3,4-b]pyridine | C(C1=CC=CC=C1)(=O)C=1C(=C2C(=NC1)NN=C2)NC(C)CC | C17H18N4O
